US04166109
Preparation of a copolymer of acrylamido methyl-7-hydroxy-4-methyl coumarin/stearyl methacrylate.
Into a 50 ml flask provided with a condenser, a nitrogen led in tube and an agitator, there are introduced 1 g of acrylamido methyl 7-hydroxy-4-methyl coumarin, 2 g of stearyl methacrylate, 0.3 g of azobis-isobutyronitrile and 6 g of dimethylformamide.

reactant | acrylamido methyl 7-hydroxy-4-methyl coumarin | 1 g | C(C=C)(=O)NCC=1C(OC2=CC(=CC=C2C1C)O)=O | C14H13NO4
reactant | stearyl methacrylate | 2 g | C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCC | C22H42O2
reactant | azobis-isobutyronitrile | 0.3 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | dimethylformamide | 6 g | CN(C=O)C | C3H7NO
product | acrylamido methyl-7-hydroxy-4-methyl coumarin stearyl methacrylate | C(C=C)(=O)NCC=1C(OC2=CC(=CC=C2C1C)O)=O.C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCC | InChI=1S/C22H42O2.C14H13NO4/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-24-22(23)21(2)3;1-3-13(17)15-7-11-8(2)10-5-4-9(16)6-12(10)19-14(11)18/h2,4-20H2,1,3H3;3-6,16H,1,7H2,2H3,(H,15,17)
